US08283353B2
4′-[(5-butyl-7-oxo-7,8-dihydro[1,2,4]triazolo[4,3-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile
A mixture of 4′-[(4-butyl-2-hydrazino-6-oxo-1,6-dihydropyrimidin-5-yl)methyl]biphenyl-2-carbonitrile (2.6 g) and triethyl orthoformate (30 mL) was stirred at 100° C. for 16 hr. The reaction mixture was concentrated, and ethyl acetate and water were added to the obtained residue. The ethyl acetate layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.46 g, 17%).

reactant | 4′-[(4-butyl-2-hydrazino-6-oxo-1,6-dihydropyrimidin-5-yl)methyl]biphenyl-2-carbonitrile | 2.6 g | C(CCC)C=1N=C(NC(C1CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)=O)NN | C22H23N5O
reactant | triethyl orthoformate | 30 mL | C(OCC)(OCC)OCC | C7H16O3
product | 4′-[(5-butyl-7-oxo-7,8-dihydro[1,2,4]triazolo[4,3-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile | 0.46 g, 17% | C(CCC)C1=C(C(NC=2N1C=NN2)=O)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N | C23H21N5O
